US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-cyano-5-fluoro-indol-1-yl)-amide (120 mg, 0.31 mmol), TMSN3 (62 μL, 0.465 mmol), and TBAF (0.155 μL, 0.155 mmol, 1 M in THF) in toluene (3 mL) is heated at 80° C. for 18 h. The mixture is cooled, diluted with EtOAc, and washed with 1 M HCl. The organic layer is extracted with Na2CO3. The aqueous layer is acidified to pH ˜3 with 3 N aqueous HCl, extracted with EtOAc The organic layer is separated, dried (Na2SO4), filtered and concentrated in vacuo to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [5-fluoro-3-(1H-tetrazol-5-yl)-indol-1-yl]-amide (100 mg, 75%). MS: 433 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 2.81 (s, 3H), 7.28 (m, 1H), 7.47 (m, 1H), 7.67 (m, 1H), 7.73 (m, 1H), 8.01 (m, 1H), 8.21 (m, 1H), 8.33 (m, 1H), 8.36 (s, 1H), 9.33 (s, 1H). IC50=5 nM.

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-cyano-5-fluoro-indol-1-yl)-amide | 0.31 mmol, 120 mg | C(#N)C1=CN(C2=CC=C(C=C12)F)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C21H13F2N5O
reactant | TMSN3 | 0.465 mmol, 62 μL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | TBAF | 0.155 mmol, 1 M, 0.155 μL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid [5-fluoro-3-(1H-tetrazol-5-yl)-indol-1-yl]-amide | 100 mg, 75% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)C1=NN=NN1 | C21H14F2N8O
